US08314088B2
(6R)—N-cyclobutyl-6-(methoxymethyl)-N-methyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine hydrochloride
To a solution of (6R)-8-benzyl-N-cyclobutyl-6-(methoxymethyl)-N-methyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine (390 mg) in methanol (10 mL) was added 20% Pd(OH)2/C (50 mg), and the mixture was stirred under a hydrogen atmosphere at 50° C. for 6 hr. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. To a solution of the obtained crude product in ethyl acetate (10 mL) was added a 4 N hydrogen chloride-ethyl acetate solution (291 μL), and the mixture was stirred for 5.5 hr. The reaction mixture was filtered, and the obtained crystals were washed with ethyl acetate to give the title compound (206 mg, 62%).

reactant | (6R)-8-benzyl-N-cyclobutyl-6-(methoxymethyl)-N-methyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine | 390 mg | C(C1=CC=CC=C1)N1C[C@@H](OC2=C(C1)N=CC(=N2)N(C)C2CCC2)COC | C21H28N4O2
reactant | hydrogen chloride-ethyl acetate | 4 N, 291 μL | C(C)(=O)OCC.Cl
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd(OH)2/C | 50 mg | [OH-].[OH-].[Pd+2]
product | (6R)—N-cyclobutyl-6-(methoxymethyl)-N-methyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine hydrochloride | 206 mg, 62% | Cl.C1(CCC1)N(C1=NC2=C(CNC[C@@H](O2)COC)N=C1)C | InChI=1S/C14H22N4O2.ClH/c1-18(10-4-3-5-10)13-8-16-12-7-15-6-11(9-19-2)20-14(12)17-13;/h8,10-11,15H,3-7,9H2,1-2H3;1H/t11-;/m1./s1
